US04587049
Preparation of [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetic acid
To a solution of 0.31 g (1 millimole) of ethyl [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetate and 4 ml of ethanol a solution of 0.04 g (1 millimole) of sodium hydroxide and 6 ml of water are added. The reaction mixture is stirred at room temperature for 2 hours. The solution is extracted three times with 3 ml of dichloromethane each. The aqueous layer is acidified with concentrated aqueous hydrochloric acid to pH 2 and extracted three times with 3 ml of dichloromethane each. The united organic layers are dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated. The residue is crystallized from benzene. Thus 0.27 g of the desired compound are obtained, yield: 88%, M.p.: 112° C.

reactant | ethyl [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetate | 1 millimole, 0.31 g | COC1=C(CN2C(CC2=O)CC(=O)OCC)C=CC(=C1)OC | C16H21NO5
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1 millimole, 0.04 g | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
product | [1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidinyl]-acetic acid | 0.27 g, yield: 88% | COC1=C(CN2C(CC2=O)CC(=O)O)C=CC(=C1)OC | C14H17NO5
